US09427475B2
Step E: 3-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)propanal
To solution of 3-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)propanol (8.4 g, 17.62 mmol) in CH2Cl2 (100 mL) at 0° C. was added Dess-Martin periodinane (11.21 g, 26.4 mmol). The resulting mixture was allowed to stir at 0° C. for 1 hr and then at rt for 2 hr. TLC indicates still some starting alcohol present so further Dess-Martin periodinane (5 g, 11.8 mmol) added and the mixture was stirred at rt for additional 2 hr. The resulting mixture was washed with sat'd NaHCO3 (3×150 mL), brine (50 mL), dried over Na2SO4, filtered and concentrated. The residue purified by flash chromatography on silica gel (220 g), eluting with 0-80% EtOAc in hexanes to give the title compound. 1H NMR (CDCl3, 400 MHz) δ 1.26 (d, J=6.6, 3H), 1.82 (m, 1H), 2.06 (m, 1H), 2.40-2.58 (m, 2H), 3.80 (m, 2H), 3.84 (m, 1H), 3.90 (m, 1H), 3.99 (dt, J=10.9, 3.8, 1H), 4.55 (d, J=11.8, 1H), 4.65 (d, J=11.8, 1H), 4.70 (t, J=12.0, 2H), 4.79 (dd, J=12.0, 9.2, 2H), 7.28-7.40 (m, 15H).

reactant | 3-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)propanol | 17.62 mmol, 8.4 g | C(C1=CC=CC=C1)O[C@@H]1[C@@H](O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)CCCO | C30H36O5
reactant | Dess-Martin periodinane | 26.4 mmol, 11.21 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Dess-Martin periodinane | 11.8 mmol, 5 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)propanal | C(C1=CC=CC=C1)O[C@@H]1[C@@H](O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)CCC=O | C30H34O5
